US06809206B2
Preparation of 2-(methoxycarbonyl)phenyl 2,3-dihydro-5,8-dimethylspiro[4H-1-benzothiopyran-4,2′-[1,3]dioxolane]-6-carboxylate 1,1-dioxide
A Fisher-Porter tube (defined in Example 3A) was charged with 3.94 g (10 mmol) of 2,3-dihydro-6-iodo-5,8-dimethylspiro[4H-1-benzothiopyran-4,2′-[1,3]dioxolane] 1,1-dioxide, 1.53 g (15 mmol) of triethylamine, 23 mg (0.1 mmol) of palladium acetate, 1.67 g (11 mmol) of methyl salicylate, and 20 mL of DMF. The mixture was heated for 3 hr at 80° C. followed by 17 hr at 50° C. in a carbon monoxide atmosphere at 70 psi (4.8×105 Pa). The mixture was poured into 150 mL of ice water and filtered. The solid was washed with 10 mL of water, 10 mL of acetonitrile, and 10 mL of diethyl ether to give the title product as 3.50 g of pink solid, m.p. 179-181° C. 1H NMR (CDCl3): δ 2.58 (s, 3), 2.60 (m, 2), 2.84 (s, 3), 3.52 (m, 2), 3.84 (s, 3), 4.19 (m, 2), 4.34 (m, 2), 7.20 (d, 1), 7.36 (t, 1), 7.61 (t, 1), 8.02 (s, 1), 8.08 (d, 1).

reactant | 2,3-dihydro-6-iodo-5,8-dimethylspiro[4H-1-benzothiopyran-4,2′-[1,3]dioxolane] 1,1-dioxide | 10 mmol, 3.94 g | IC=1C=C(C2=C(C1C)C1(OCCO1)CCS2(=O)=O)C | C13H15IO4S
reactant | triethylamine | 15 mmol, 1.53 g | C(C)N(CC)CC | C6H15N
reactant | methyl salicylate | 11 mmol, 1.67 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium acetate | 0.1 mmol, 23 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(methoxycarbonyl)phenyl 2,3-dihydro-5,8-dimethylspiro[4H-1-benzothiopyran-4,2′-[1,3]dioxolane]-6-carboxylate 1,1-dioxide | CC1=C(C=C(C2=C1C1(OCCO1)CCS2(=O)=O)C)C(=O)OC2=C(C=CC=C2)C(=O)OC | C22H22O8S
